US07582306B2
One g of phytantriol (3.0 mmol, Sigma-Aldrich) was refluxed using deanstock apparatus for 15 hr in 25 ml of acetone solution with toluene sulfonic acid as catalyst. After the completion of the reaction, the acetone solvent was removed under reduced pressure and the resultant was extracted with chloroform solution. The extract was washed with saturated sodium bicarbonate solution and was again washed with saline to obtain 0.3 g of (2-(2,2-dimethyl-[1,3]dioxolan-4-yl)-6,10,14-trimethyl-pentadecan-2-ol) of which 1- and 2-positions were protected.

reactant | phytantriol | 3.0 mmol | CC(C)CCCC(C)CCCC(C)CCCC(C)(O)C(O)CO | C20H42O3
reactant | acetone | 25 ml | CC(=O)C | C3H6O
catalyst | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
product | 2-(2,2-dimethyl-[1,3]dioxolan-4-yl)-6,10,14-trimethyl-pentadecan-2-ol | 0.3 g | CC1(OCC(O1)C(C)(CCCC(CCCC(CCCC(C)C)C)C)O)C | C23H46O3
